US09428497B2
Preparation of (−)-(1R,5S,6S)-6-(6-Dimethylamino-pyridine-3-yl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert.-butyl ester (VIII-1)
0.95 g (4.25 mmol, 1 eq) of (−)-(1R,5S,6S)-[5-(8-aza-bicyclo[3.2.1]oct-6-yl)-pyridine-2-yl]-dimethylamine (VII-1) is dissolved in 140 ml of THF. The dropwise addition of 0.86 ml (6.17 mmol, 1.45 eq) of TEA is followed by the addition of a solution of 1.35 g (6.18 mmol, 1.45 eq) of di-tert-butyldicarbonate in 10.5 ml THF. The solution is stirred for 4 h at RT before the solvent is removed by means of the rotary evaporator. The crude product is purified by column chromatography (EE:Hex=1:2). 1.34 g (4.04 mmol, 95%) is obtained as a colorless solid.

reactant | (−)-(1R,5S,6S)-[5-(8-aza-bicyclo[3.2.1]oct-6-yl)-pyridine-2-yl]-dimethylamine | 4.25 mmol, 0.95 g, 1 eq | [C@@H]12CCC[C@@H]([C@@H](C1)C=1C=CC(=NC1)N(C)C)N2 | C14H21N3
reactant | di-tert-butyldicarbonate | 6.18 mmol, 1.35 g, 1.45 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | THF | 10.5 ml | C1CCOC1 | C4H8O
product | (−)-(1R,5S,6S)-6-(6-Dimethylamino-pyridine-3-yl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CCC[C@H]1[C@@H](C2)C=2C=NC(=CC2)N(C)C | C19H29N3O2
